US08067447B2
Each diastereomer of methyl 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoate was heated to 100° C. overnight in a mixture of 2 M NaOH/MeOH/DMSO (1:1:1). The next day, the reaction was cooled, acidified to pH 5 with HCl and extracted 2×EtOAc. The organic layers were washed with water×2, dried over MgSO4, filtered, concentrated in vacuo, and purified by HPLC to give 27 mg (82% yield, 2 steps) and 35 mg of the diastereomers of acid 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid. MS found: (M+H)+=281.

reactant | methyl 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoate | N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)C)C1=CC=CC=C1 | C18H18N2O2
reactant | HCl | Cl | ClH
solvent | NaOH MeOH DMSO | 2 M | [OH-].[Na+].CO.CS(=O)C
product | 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid | 82% yield | N1N=CC2=CC(=CC=C12)C(C(C(=O)O)C)C1=CC=CC=C1 | C17H16N2O2
